US07414061B2
3-[4-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-N-(tetrahydro-pyran-4-yl)-benzamide
As described for Example 71, tetrahydro-pyran-4-ylamine was converted, using 3-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid (100 mg, 0.29 mmol) instead of 4-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid, to the title compound (52 mg, 42%) which was obtained as an off-white solid. MS: m/e=413.0 [M+H]+.

reactant | tetrahydro-pyran-4-ylamine | O1CCC(CC1)N | C5H11NO
reactant | 3-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid | 0.29 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=CN(C1)C=1C=C(C(=O)O)C=CC1 | C20H15N3O3
product | 3-[4-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-N-(tetrahydro-pyran-4-yl)-benzamide | 52 mg, 42% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=CN(C1)C=1C=C(C(=O)NC2CCOCC2)C=CC1 | C25H24N4O3
